US04997972
To a 200-ml flask were successively charged 40 ml of N,N-dimethylformamide (hereinafter abbreviated as DMF), 20 g (0.0677 mole) of 2-acetylamino-5-chloroiodobenzene, 5.94 g (0.069 mole) of methyl acrylate, 6.94 g (0.0846 mole) of anhydrous sodium acetate, 10 mg of palladium chloride and 30 mg of triphenylphosphine in this order. This mixture was stirred at 130° to 135° C. for 3 hours and poured into 200 ml of water, and then a large amount of crystal precipitated. This crystal was filtered off, thoroughly washed with water and dried in vacuo to obtain 14.1 g of methyl 2-acetylamino-5-chlorocinnamate. The yield was 82.2% of the theoretical value, and the melting point was 172° to 174° C. The nuclear magnetic resonance spectrum (1H-NMR) and infrared absorption spectrum (IR) of this compound were as follows:

reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | 2-acetylamino-5-chloroiodobenzene | 0.0677 mole, 20 g | C(C)(=O)NC1=C(C=C(C=C1)Cl)I | C8H7ClINO
reactant | methyl acrylate | 0.069 mole, 5.94 g | C(C=C)(=O)OC | C4H6O2
reactant | sodium acetate | 0.0846 mole, 6.94 g | C(C)(=O)[O-].[Na+]
catalyst | palladium chloride | 10 mg | [Pd](Cl)Cl
catalyst | triphenylphosphine | 30 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 200 ml | O | H2O
product | methyl 2-acetylamino-5-chlorocinnamate | 14.1 g, yield was 82.2% | C(C)(=O)NC1=C(C=CC(=O)OC)C=C(C=C1)Cl | C12H12ClNO3
